US06908919B2
A solution of diisopropylamine (35.3 ml, 0.251 moles) in tetrahydrofuran (500 ml) was cooled to −78° C. under a nitrogen blanket. To this was added 1.6M n-butyllithium in hexanes (157 ml, 0.251 moles) and allowed to stir for 5 min. Then slowly added thiopene-2-carbonitrile (21.33 ml, 0.229 moles) in tetrahydrofuran (115 ml) and allowed to stir. After 45 min. was added N,N-dimethylformamide (88.66 ml, 1.145 moles) at −78° C. Citric acid (40 g) was added after 2 h. followed by water (240 ml) and stirred for 18 h. The reaction was concentrated in vacuo, transferred to a separatory funnel, diluted with brine, and extracted twice with ether. The combined ether layers were washed with brine, dried over magnesium sulfate, filtered, and the solvent removed in vacuo. Chromatography yielded 15.8 g (50%) of 2-cyano-5-formylthiophene (EX-55A) as a brown solid: 1H NMR (300 MHZ, CDCl3) d 10.02 (s, 1H), 7.79 (m, 1H), 7.30 (m, 1H).

reactant | diisopropylamine | 0.251 moles, 35.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | thiopene-2-carbonitrile | 0.229 moles, 21.33 ml | S1C(=CC=C1)C#N | C5H3NS
reactant | N,N-dimethylformamide | 1.145 moles, 88.66 ml | CN(C=O)C | C3H7NO
reactant | Citric acid | 40 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 115 ml | O1CCCC1 | C4H8O
solvent | water | 240 ml | O | H2O
product | 2-cyano-5-formylthiophene | 15.8 g, 50% | C(#N)C=1SC(=CC1)C=O | C6H3NOS
